US06525052B2
({1-[3-Cyano-1-(1-ethyl-propyl)-pyrrolidin-3-ylcarbamoyl]-2-cyclohexyl-ethylamino}-morpholin-4-yl-methylene)-carbamic Acid Ethyl Ester.
The title compound was prepared starting from (morpholine-4-carbothioyl)-carbamic acid ethyl ester and 2-amino-N-[3-cyano-1-(1-ethyl-propyl)-pyrrolidin-3-yl]-3-cyclohexyl-propionamide bis hydrochloride salt according to the procedure from Example 5, step b, . MS, m/z 519=M+1.

reactant | (morpholine-4-carbothioyl)-carbamic acid ethyl ester | C(C)OC(NC(=S)N1CCOCC1)=O | C8H14N2O3S
reactant | 2-amino-N-[3-cyano-1-(1-ethyl-propyl)-pyrrolidin-3-yl]-3-cyclohexyl-propionamide bis hydrochloride salt | Cl.Cl.NC(C(=O)NC1(CN(CC1)C(CC)CC)C#N)CC1CCCCC1
product | ({1-[3-Cyano-1-(1-ethyl-propyl)-pyrrolidin-3-ylcarbamoyl]-2-cyclohexyl-ethylamino}-morpholin-4-yl-methylene)-carbamic Acid Ethyl Ester | C(C)OC(N=C(N1CCOCC1)NC(CC1CCCCC1)C(NC1(CN(CC1)C(CC)CC)C#N)=O)=O | C27H46N6O4
